US04803254
A 500 mL, 3-neck flask fitted with mechanical stirrer, an inert gas inlet topped reflux condenser, and a thermocouple was charged with acetic acid (32 mL) and 4-aminophenol (10.9 g, 0.10 mol). Acetic anhydride (30.2 g, 0.30 mol) was added in one portion and the brown, clear solution was heated to 100°-110° C. and maintained at that temperature for 16 hours. Heating was stopped and the reaction mixture was allowed to cool slowly with stirring (under argon). After approximately 1 hour the mixture had cooled to 20° C. and precipitation began. The mixture was cooled to ~0° C. (ice-salt bath) and maintained at that temperature for 6 hours and was then filtered. The pale-pink solid was dried in vacuum to yield 16.1 g, 0.08 mol of 4-acetoxyacetanilide (mp 140°-142° C.). The molecular structure was confirmed by IR and 1H NMR analyses.

reactant | 4-aminophenol | 0.10 mol, 10.9 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | Acetic anhydride | 0.30 mol, 30.2 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic acid | 32 mL | C(C)(=O)O | C2H4O2
product | 4-acetoxyacetanilide | 0.08 mol, 16.1 g | CC(=O)NC1=CC=C(C=C1)OC(=O)C | C10H11NO3
